* ================================================================
* MIL-STD-461C CE03 input-side equivalent circuit + EMI filter + PFC model
* Annotated version for LTspice import.
*
* Purpose:
*   - Reproduce the CE03 input-side current path at design/debug level.
*   - Keep correspondence among:
*       Fig.2 / Fig.4 / recommended initial specifications / this .cir file.
*   - Provide a clear replacement zone for swapping the simplified PFC model
*     with a detailed bridge + PFC simulation model.
*
* Important:
*   - This model is a design/debug model. Final compliance must follow the
*     approved test plan and measurement procedure.
*   - In this file, element names are the canonical names used in the memo v4.
*   - Numeric values should be changed through .param values whenever possible.
*
* Canonical naming rule:
*   Source          : VACL / VAC_RMS / FAC
*   Feedthrough C   : CftL, CftN / CFT / RFT_ESR / LFT_ESL
*   1 m lead R/L    : RlineL, LlineL, RlineN, LlineN / RLINE / LLINE
*   Lead parasitics : ClineLN, ClineLCH, ClineNCH / C_LN / C_L_CH / C_N_CH
*   Current probes  : VCP_L, VCP_N
*   CM choke        : LcmL, LcmN, Kcm / LCM / KCM
*   DM inductor     : LdmL, LdmN / LDM
*   X caps          : Cx1, Cx2 / CX1 / CX2
*   Damping branch  : Rdamp, Cdamp / R_DAMP / C_DAMP
*   Y caps          : CyL, CyN / CY
*   PFC eq. load    : Rpfc / R_PFC_EQ
*   PFC DM source   : B_IDM / IDM1 / IDM3 / FSW
*   PFC CM source   : B_ICM_L, B_ICM_N / ICM1 / ICM3 / FSW
*   PFC parasitic C : Cswch / CP_SW_CH
*   Chassis bond    : Rbond, Lbond / RBOND / LBOND
* ================================================================

* ================================================================
* BLOCK 0: Global simulation parameters
* Corresponds to:
*   - Initial specification table: 電源, PFC等価ノイズ源, シミュレーション条件
*   - Fig.4: AC source and PFC equivalent source labels
* ================================================================
.param VAC_RMS=115
.param FAC=400
.param VPK={sqrt(2)*VAC_RMS}
.param FSW=200k
.param TSTOP=10m
.param TSTART=8m
.param TMAX=20n

* ================================================================
* BLOCK 1: MIL-STD-461C CE03 equivalent source/termination parameters
* Corresponds to:
*   - Fig.2: CE03入力側等価回路
*   - Fig.4: CE03 source / feedthrough / 1 m line
* ================================================================
.param RLINE=20m
.param LLINE=1u
.param CFT=10u
.param RFT_ESR=20m
.param LFT_ESL=10n
.param C_LN=50p
.param C_L_CH=50p
.param C_N_CH=50p
.param RBOND=1m
.param LBOND=20n

* ================================================================
* BLOCK 2: EMI filter initial values
* Corresponds to:
*   - Initial specification table: EMIフィルタ初期値
*   - Fig.4: EMI filter block
* ================================================================
.param LCM=2m
.param KCM=0.999
.param LDM=10u
.param CX1=100n
.param CX2=220n
.param R_DAMP=4.7
.param C_DAMP=100n
.param CY=2.2n
.param RDIS=1Meg

* ================================================================
* BLOCK 3: Simplified PFC conducted-noise equivalent parameters
* Corresponds to:
*   - Initial specification table: PFC等価負荷, PFC DM/CMノイズ源, PFC寄生C外部等価
*   - Fig.4: AC/DC PFC and Cswch
*
* Replacement note:
*   When a detailed PFC model is inserted, this block may remain as .param
*   definitions, but the active simplified source elements in BLOCK 9 should
*   be commented out or deleted to avoid double-counting noise.
* ================================================================
.param IDM1=10m
.param IDM3=3m
.param ICM1=3m
.param ICM3=1m
.param CP_SW_CH=50p
.param R_PFC_EQ=2k

* ================================================================
* BLOCK 4: Aircraft AC source
* Canonical element:
*   VACL
* Interface nodes:
*   srcL, srcN  : ideal source terminals
*   sL0, sN0    : source/termination side nodes after source resistance
*
* Replace this block for split-phase, three-phase, variable frequency,
* or source impedance models.
* ================================================================
VACL srcL srcN SINE(0 {VPK} {FAC})
RsrcL srcL sL0 50m
RsrcN srcN sN0 50m

* ================================================================
* BLOCK 5: 10 uF feedthrough capacitors to ground plane
* Canonical elements:
*   CftL, CftN
* Associated parasitics:
*   RftL, LftL, RftN, LftN
*
* Electrical meaning:
*   These create the low-impedance CE03 input-side termination to chassis/
*   ground plane. In Fig.2 and Fig.4, the bottom of CftL/CftN must be
*   connected to chassis.
* ================================================================
RftL sL0 ftL1 {RFT_ESR}
LftL ftL1 ftL2 {LFT_ESL}
CftL ftL2 chassis {CFT}

RftN sN0 ftN1 {RFT_ESR}
LftN ftN1 ftN2 {LFT_ESL}
CftN ftN2 chassis {CFT}

* ================================================================
* BLOCK 6: 1 m parallel input leads and cable parasitic capacitances
* Canonical elements:
*   RlineL, LlineL, RlineN, LlineN
*   ClineLN, ClineLCH, ClineNCH
*
* Interface nodes:
*   sL0/sN0 : source termination side
*   l2/n2   : current-probe upstream side / EUT input harness end
* ================================================================
RlineL sL0 l1 {RLINE}
LlineL l1 l2 {LLINE}

RlineN sN0 n1 {RLINE}
LlineN n1 n2 {LLINE}

ClineLN  l2 n2      {C_LN}
ClineLCH l2 chassis {C_L_CH}
ClineNCH n2 chassis {C_N_CH}

* ================================================================
* BLOCK 7: Chassis bonding impedance
* Canonical elements:
*   Rbond, Lbond
*
* Electrical meaning:
*   Keeps the chassis node explicit instead of shorting it ideally to node 0.
*   This is useful when observing common-mode current paths. Adjust RBOND/LBOND
*   if the mechanical bonding impedance is known.
* ================================================================
Rbond chassis ch0 {RBOND}
Lbond ch0 0 {LBOND}

* ================================================================
* BLOCK 8: Current-probe substitutes
* Canonical elements:
*   VCP_L, VCP_N
*
* How to use:
*   - Plot I(VCP_L) and I(VCP_N).
*   - Apply FFT after steady state.
*   - Convert to dBuA:
*       20*log10(abs(I(VCP_L))/1u)
*       20*log10(abs(I(VCP_N))/1u)
*
* Interface nodes:
*   l2/n2 : upstream side
*   inL/inN : EMI filter input side
* ================================================================
VCP_L l2 inL 0
VCP_N n2 inN 0

* ================================================================
* BLOCK 9: EMI input filter
* Canonical elements:
*   LcmL, LcmN, Kcm
*   Cx1, Rdis1
*   LdmL, LdmN
*   Rdamp, Cdamp
*   Cx2, Rdis2
*   CyL, CyN
*
* Interface nodes:
*   inL/inN : filter input
*   fL2/fN2 : filter output and PFC input
*
* Replacement note:
*   Keep this block when replacing the simplified PFC model.  Only replace
*   BLOCK 10 unless you also want to change the EMI filter topology.
* ================================================================

* Common-mode choke. KCM close to 1 gives finite leakage inductance.
LcmL inL fL1 {LCM}
LcmN inN fN1 {LCM}
Kcm LcmL LcmN {KCM}

* X capacitor and discharge resistor near line side.
Cx1   fL1 fN1 {CX1}
Rdis1 fL1 fN1 {RDIS}

* Differential-mode series inductance.
LdmL fL1 fL2 {LDM}
LdmN fN1 fN2 {LDM}

* Damped X branch for filter resonance suppression.
Rdamp fL2 ndamp {R_DAMP}
Cdamp ndamp fN2 {C_DAMP}

* Main X capacitor near converter side.
Cx2   fL2 fN2 {CX2}
Rdis2 fL2 fN2 {RDIS}

* Y capacitors to chassis. Check leakage current and insulation requirements.
CyL fL2 chassis {CY}
CyN fN2 chassis {CY}

* ================================================================
* BLOCK 10: Simplified PFC equivalent model / replacement zone
* Canonical active elements:
*   Rpfc, B_IDM, B_ICM_L, B_ICM_N, VSW, Cswch
*
* This block is intentionally simple:
*   - Rpfc gives a rough input load.
*   - B_IDM injects differential-mode switching ripple current.
*   - B_ICM_L and B_ICM_N inject common-mode current to chassis.
*   - VSW and Cswch represent a high-dv/dt PFC node capacitively coupled
*     to chassis.
*
* PFC replacement procedure:
*   1. Comment out or delete Rpfc, B_IDM, B_ICM_L, B_ICM_N, VSW, Cswch.
*   2. Insert your detailed bridge + PFC model between fL2 and fN2.
*   3. Connect the detailed model chassis/reference parasitics to node "chassis".
*   4. If the detailed model already includes switch-node-to-chassis capacitance,
*      do not also keep Cswch.  Avoid double-counting CP_SW_CH.
*   5. Keep VCP_L/VCP_N and BLOCKS 4-9 unchanged for CE03 input-side evaluation.
* ================================================================
* >>> PFC_REPLACEMENT_ZONE_BEGIN

* Equivalent input load.
Rpfc fL2 fN2 {R_PFC_EQ}

* Differential-mode ripple current source.
B_IDM fL2 fN2 I={IDM1*sin(2*pi*FSW*time)+IDM3*sin(2*pi*3*FSW*time)}

* Common-mode current injection from both conductors to chassis.
B_ICM_L fL2 chassis I={0.5*(ICM1*sin(2*pi*FSW*time)+ICM3*sin(2*pi*3*FSW*time))}
B_ICM_N fN2 chassis I={0.5*(ICM1*sin(2*pi*FSW*time)+ICM3*sin(2*pi*3*FSW*time))}

* PFC寄生C 外部等価 / External equivalent PFC parasitic capacitance.
* VSW is an artificial high-dv/dt node for early-stage CM current estimation.
VSW sw 0 PULSE(0 400 0 20n 20n {0.45/FSW} {1/FSW})
Cswch sw chassis {CP_SW_CH}

* <<< PFC_REPLACEMENT_ZONE_END
* ================================================================

* ================================================================
* BLOCK 11: Detailed PFC replacement templates (commented examples)
*
* Template A: detailed PFC subcircuit with L/N/chassis ports
*   .subckt PFC_DETAIL L N CH PARAMS: ...
*     ... bridge + boost PFC + controller ...
*     ... connect parasitic capacitances to CH ...
*   .ends PFC_DETAIL
*
*   Replace BLOCK 10 with:
*   X_PFC fL2 fN2 chassis PFC_DETAIL PARAMS: ...
*
* Template B: detailed model exposes switch node SW
*   X_PFC fL2 fN2 chassis sw PFC_DETAIL_WITH_SW PARAMS: ...
*   Cswch sw chassis {CP_SW_CH}
*
*   Use this only if the detailed model does not already contain the equivalent
*   switch-node-to-chassis capacitance.
*
* Template C: keep simplified PFC but tune measured noise
*   Keep Rpfc/B_IDM/B_ICM_L/B_ICM_N/VSW/Cswch and tune:
*     IDM1, IDM3, ICM1, ICM3, CP_SW_CH, FSW, R_PFC_EQ
*   to match early bench current-probe measurements.
* ================================================================

* ================================================================
* BLOCK 12: Simulation commands and CE03 current readout
*
* Waveform viewer expressions:
*   Line dBuA   = 20*log10(abs(I(VCP_L))/1u)
*   Return dBuA = 20*log10(abs(I(VCP_N))/1u)
*
* Optional mode split approximations:
*   DM current approx = (I(VCP_L)-I(VCP_N))/2
*   CM current approx =  I(VCP_L)+I(VCP_N)
*
* Notes:
*   - Probe polarity affects sign. Confirm sign convention before CM/DM use.
*   - Use TSTART after startup transient to FFT steady-state waveform.
*   - TMAX must be small enough to capture switching edges and high-frequency
*     content of interest.
* ================================================================
.tran 0 {TSTOP} {TSTART} {TMAX}
.options plotwinsize=0 reltol=0.003 abstol=1n vntol=1u
.backanno
.end
